US08703805B2
Methyl 1-(2,6-dichlorophenyl)-5-(3-methyl-3′-(methylsulfonyl)biphenyl-4-yl)-1H-pyrazole-3-carboxylate (102 mg, 0.20 mmol) was suspended in pyrrolidine (0.6 mL, 7.2 mmol) and heated in the microwave at 180° C. for 10 minutes. The dark reaction mixture was concentrated under reduced pressure and azeotroped with toluene to remove most of the pyrrolidine. The resulting crude product was purified by preparative reverse phase HPLC eluting with MeCN/H2O with 0.05% TFA. The product fractions from the HPLC were made basic by the careful addition of saturated aqueous NaHCO3. The resulting mixture was concentrated to remove most of the MeCN. The resulting aqueous suspension was extracted with CH2Cl2 (3×), and the combined extracts were dried over Na2SO4 overnight, filtered and concentrated under reduced pressure to afford (1-(2,6-dichlorophenyl)-5-(3-methyl-3′-(methylsulfonyl)biphenyl-4-yl)-1H-pyrazol-3-yl)(pyrrolidin-1-yl)methanone (15 mg, 14% yield) as a brown solid. 1H NMR (400 MHz CDCl3): δ 8.10 (1H, m), 7.91 (1H, m), 7.83 (1H, m), 7.62 (1H, t), 7.49 (1H, d), 7.42-7.34 (2H, m), 7.33-7.21 (2H, m), 7.13 (1H, d), 7.06 (1H, s), 3.99 (2H, t), 3.71 (2H, t), 3.08 (3H, s), 2.50 (3H, s), 2.03-1.86 (4H, m). MS(ES): 554 [M+H]+.

reactant | Methyl 1-(2,6-dichlorophenyl)-5-(3-methyl-3′-(methylsulfonyl)biphenyl-4-yl)-1H-pyrazole-3-carboxylate | 0.20 mmol, 102 mg | ClC1=C(C(=CC=C1)Cl)N1N=C(C=C1C1=C(C=C(C=C1)C1=CC(=CC=C1)S(=O)(=O)C)C)C(=O)OC | C25H20Cl2N2O4S
reactant | pyrrolidine | 7.2 mmol, 0.6 mL | N1CCCC1 | C4H9N
product | (1-(2,6-dichlorophenyl)-5-(3-methyl-3′-(methylsulfonyl)biphenyl-4-yl)-1H-pyrazol-3-yl)(pyrrolidin-1-yl)methanone | 15 mg, 14% yield | ClC1=C(C(=CC=C1)Cl)N1N=C(C=C1C1=C(C=C(C=C1)C1=CC(=CC=C1)S(=O)(=O)C)C)C(=O)N1CCCC1 | C28H25Cl2N3O3S
